US08703978B2
Methyl 6-Trifluoromethanesulfonyloxy-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho-[1,2-b]pyran-5-carboxylate
Trifluoromethanesulfonic anhydride (5.32 g, 18.9 mmol) was added dropwise to a solution of 6-hydroxy-5-methoxycarbonyl-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho-[1,2-b]pyran (4.8 g, 10 mmol) and pyridine (1.7 g, 21.6 mmol) in DCM (100 mL) at 0° C. under N2 with stirring. After 1 h the resulting solution was washed with HCl (100 mL, 2 M), water (100 mL), dried (MgSO4) and the solvent removed under reduced pressure. The residue was filtered through a short plug of silica using DCM as eluent. The solvent was removed under reduced pressure to give the title compound (3.57 g, 58%) as a blue powder.

reactant | Trifluoromethanesulfonic anhydride | 18.9 mmol, 5.32 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 6-hydroxy-5-methoxycarbonyl-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho-[1,2-b]pyran | 10 mmol, 4.8 g | OC1=C(C=2C(OCC(C2)(C2=CC=C(C=C2)N2CCCC2)C2=CC=CC=C2)C2=CC=CC=C12)C(=O)OC | C31H29NO4
reactant | pyridine | 21.6 mmol, 1.7 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl 6-Trifluoromethanesulfonyloxy-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho-[1,2-b]pyran-5-carboxylate | 3.57 g, 58% | FC(S(=O)(=O)OC1=C(C=2C(OCC(C2)(C2=CC=C(C=C2)N2CCCC2)C2=CC=CC=C2)C2=CC=CC=C12)C(=O)OC)(F)F | C32H28F3NO6S
